US07405305B2
d) Benzyl-[1-(pyridinyl)-2,3-dihydro-1H-indol-7-ylmethyl]carbamic acid tert-butyl ester
Bubble nitrogen through benzyl-(2,3-dihydro-1H-indol-7-ylmethyl)carbamic acid tert-butyl ester (3.7 g, 10.9 mmol) in 1,4-dioxane (50 mL) in a sealed tube. Mix with 4-bromopyridine hydrochloride (4.3 g, 21.9 mmol), palladium diacetate (0.5 g, 2.18 mmol), 2-(dicyclohexylphosphino)biphenyl (0.76 g, 2.18 mmol) and sodium tert-butoxide (3.1 g, 32.7 mmol). Stir the mixture 110° C. for 16 hours. Cool and filter, then concentrate the filtrate. Purify by chromatography (silica gel; hexane/ethyl acetate; 3:1 to 0:1) to isolate a solid as the title compound (1.5 g, 33%). MS (ESI) m/z 416 (M+H)+.

reactant | benzyl-(2,3-dihydro-1H-indol-7-ylmethyl)carbamic acid tert-butyl ester | 10.9 mmol, 3.7 g | C(C)(C)(C)OC(N(CC=1C=CC=C2CCNC12)CC1=CC=CC=C1)=O | C21H26N2O2
reactant | 4-bromopyridine hydrochloride | 21.9 mmol, 4.3 g | Cl.BrC1=CC=NC=C1
reactant | 2-(dicyclohexylphosphino)biphenyl | 2.18 mmol, 0.76 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | sodium tert-butoxide | 32.7 mmol, 3.1 g | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | palladium diacetate | 2.18 mmol, 0.5 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | Benzyl-[1-(pyridinyl)-2,3-dihydro-1H-indol-7-ylmethyl]carbamic acid tert-butyl ester | 1.5 g, 33% | C(C)(C)(C)OC(N(CC=1C=CC=C2CCN(C12)C1=NC=CC=C1)CC1=CC=CC=C1)=O | C26H29N3O2
